US08304446B2
3-{[3-Amino-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile
Finely ground potassium hydroxide (6.59 g, 118 mmol, 2.5 equiv.) was treated with DMSO (100 mL). To this was added 5-fluoro-4-(methyloxy)-1H-indazol-3-amine (for a preparations see Intermediate 56) (8.5 g, 47 mmol) and the mixture stirred at room temperature for 50 minutes. To the red coloured mixture was added 3-chloromethyl benzonitrile (8.9 g, 59 mmol, 1.25 equiv.) in one portion. A small exotherm of ˜5° C. was observed. The mixture was allowed to stir at room temperature for 25 minutes before pouring into water (600 mL) and extracting with chloroform (400 mL). The aqueous was re-extracted with chloroform (2×400 mL). The organic extracts were combined, washed with water (3×500 mL), dried over MgSO4, filtered and evaporated to give the crude product. This was dry loaded onto silica and chromatographed eluting with 20% petrol up to 70% EtOAc-petrol. The material came off impure so was re-chromatographed on a suction column. The impure material was loaded in DCM and eluted with DCM up to 30% EtOAc-DCM to give the title compound (8.25 g, 48%) as an off-white solid. LCMS (System A) RT=0.96 min, ES+ve m/z 297 (M+H)+.

reactant | potassium hydroxide | 118 mmol, 6.59 g, 2.5 equiv. | [OH-].[K+]
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
reactant | 5-fluoro-4-(methyloxy)-1H-indazol-3-amine | FC=1C(=C2C(=NNC2=CC1)N)OC | C8H8FN3O
reactant | 3-chloromethyl benzonitrile | 59 mmol, 8.9 g, 1.25 equiv. | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
solvent | water | 600 mL | O | H2O
product | 3-{[3-Amino-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile | 8.25 g, 48% | NC1=NN(C2=CC=C(C(=C12)OC)F)CC=1C=C(C#N)C=CC1 | C16H13FN4O
